US07569579B2
benzyl ethyl{1-[((1S,2S)-2-{[methyl(phenylsulfonyl)amino]methyl}-2-phenylcyclopropyl)methyl]piperidin-4-yl}carbamate
N-{[(1S,2S)-2-formyl-1-phenylcyclopropyl]methyl}-N-methylbenzenesulfonamide and benzyl ethyl(piperidin-4-yl)carbamate (incorporating by reference as needed Bioorg. and Med. Chem. Lett., 11 (2001), 2475) were reacted as per Preparation 10 to give the title compound. 1H NMR (300 MHz, DMSO-d6) δ 7.67-7.55 (m, 5H), 7.39-7.21 (m, 10H), 5.07 (s, 2H), 3.67 (m, 1H), 3.57 (d, J=13.3 Hz, 1H), 3.17 (q, J=6.6 Hz, 2H), 2.99-2.93 (m, 1H), 2.76 (d, J=13.3 Hz, 1H), 2.75-2.68 (m, 1H), 2.52 (s, 3H), 2.29-2.19 (m, 1H), 1.87-1.38 (m, 7H), 1.11 (m, 1H), 1.04 (t, J=6.6 Hz, 3H), 1.07-1.03 (m, 1H), 0.90 (m, 1H). ES-LCMS m/z 576.2 (M+H).

reactant | N-{[(1S,2S)-2-formyl-1-phenylcyclopropyl]methyl}-N-methylbenzenesulfonamide | C(=O)[C@@H]1[C@@](C1)(C1=CC=CC=C1)CN(S(=O)(=O)C1=CC=CC=C1)C | C18H19NO3S
reactant | benzyl ethyl(piperidin-4-yl)carbamate | C(C)N(C(OCC1=CC=CC=C1)=O)C1CCNCC1 | C15H22N2O2
product | benzyl ethyl{1-[((1S,2S)-2-{[methyl(phenylsulfonyl)amino]methyl}-2-phenylcyclopropyl)methyl]piperidin-4-yl}carbamate | C(C)N(C(OCC1=CC=CC=C1)=O)C1CCN(CC1)C[C@@H]1[C@@](C1)(C1=CC=CC=C1)CN(S(=O)(=O)C1=CC=CC=C1)C | C33H41N3O4S
